US08541418B2
1-Benzyl 4-tert-butyl 2-methyl 2-ethylpiperazine-1,2,4-tricarboxylate (1.1 g, 2.7 mmol) was dissolved in 10 mL of methanol and glacial acetic acid (2 drops) was added. Palladium on carbon (5%, 410 mg) was added, and the reaction mixture was stirred under a H2 atmosphere for 17 h at rt. The mixture was filtered through diatomaceous earth and the filter cake washed with MeOH. The combined filtrates were concentrated under reduced pressure to give 1-tert-butyl 3-methyl 3-ethylpiperazine-1,3-dicarboxylate (compound IV-JJ) as an oil. LCMS: 273.1 m/z (M+H)+.

reactant | 1-Benzyl 4-tert-butyl 2-methyl 2-ethylpiperazine-1,2,4-tricarboxylate | 2.7 mmol, 1.1 g | C(C)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC | C21H30N2O6
solvent | methanol | 10 mL | CO | CH4O
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | 410 mg | [Pd] | Pd
product | 1-tert-butyl 3-methyl 3-ethylpiperazine-1,3-dicarboxylate | C(C)C1(CN(CCN1)C(=O)OC(C)(C)C)C(=O)OC | C13H24N2O4
